* NGSPICE file created from integrator.ext - technology: gf180mcuD

.subckt nfet_03v3_W5YWFC a_n118_n750# a_n256_n975# a_30_n750# a_n45_804#
X0 a_30_n750# a_n45_804# a_n118_n750# a_n256_n975# nfet_03v3 ad=3.3p pd=15.88u as=3.3p ps=15.88u w=7.5u l=0.3u
.ends

.subckt cap_mim_2p0fF_3RDREM m4_n7708_n7588# m4_n7828_n7708#
X0 m4_n7708_n7588# m4_n7828_n7708# cap_mim_2f0_m4m5_noshield c_width=75.88u c_length=75.88u
.ends

.subckt cap_mim_2p0fF_Y6V987 m4_n4435_n4315# m4_n4555_n4443#
X0 m4_n4435_n4315# m4_n4555_n4443# cap_mim_2f0_m4m5_noshield c_width=43.15u c_length=43.15u
.ends

.subckt integrator clk1 clk2 VSS gnd Voutp Vinp Voutn Vinn
XXM1 gnd VSS m3_n690_1740# clk2 nfet_03v3_W5YWFC
XXM2 gnd VSS m2_2550_20# clk1 nfet_03v3_W5YWFC
XXM3 m3_n690_1740# VSS Vinp clk1 nfet_03v3_W5YWFC
XXM4 m2_2550_20# VSS Voutp clk2 nfet_03v3_W5YWFC
XXM5 gnd VSS m3_270_n3070# clk2 nfet_03v3_W5YWFC
XXM6 gnd VSS m3_2140_n3070# clk1 nfet_03v3_W5YWFC
XC2 Vinp Voutp cap_mim_2p0fF_3RDREM
XC1 m3_n690_1740# m2_2550_20# cap_mim_2p0fF_Y6V987
XXM7 m3_270_n3070# VSS Vinn clk1 nfet_03v3_W5YWFC
XXM8 m3_2140_n3070# VSS Voutn clk2 nfet_03v3_W5YWFC
XC3 m3_270_n3070# m3_2140_n3070# cap_mim_2p0fF_Y6V987
XC4 Vinn Voutn cap_mim_2p0fF_3RDREM
.ends

